US08349880B2
A mixture of 7-phenyl-4,5-dihydropyrazolo[1,5-a]pyridin-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate (400 mg, 0.809 mmol, from AAH), 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (362 mg, 1.618 mmol, from step 2 of preparation A), tris(dibenzylideneacetone)dipalladium(0) (29.6 mg, 0.032 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (70.2 mg, 0.121 mmol), and 1-methyl-2,3,4,6,7,8-hexahydro-1H-pyrimido[1,2-a]pyrimidine (372 mg, 2.428 mmol) in toluene (5 mL) was microwaved in a biotage chemistry microwave at 160° C. for 2 h. The crude reaction mixture was loaded directly on to silica gel and purified using silica gel column chromatography (0-80% EtOAc/hexanes) to afford N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-phenyl-4,5-dihydropyrazolo[1,5-a]pyridin-2-amine (70 mg, 21% yield). LC-MS (M+H)+ 418.1. 1H NMR (500 MHz, chloroform-d) δ ppm 7.58 (dd, J=6.56, 1.37 Hz, 2 H) 7.49 (d, J=1.53 Hz, 1H) 7.43 (d, 0.1-2.44 Hz, 1 H) 7.34-7.40 (m, 3H) 7.02 (d, J=8.55 Hz, 1H) 6.99 (d, J=1.83 Hz, 1H) 6.53 (dd, J=8.55, 2.44 Hz, 1H) 6.31 (s, 1 H) 5.83 (s, 1 H) 5.47-5.52 (m, 1 H) 3.53 (s, 3 H) 2.96 (t, J=7.93 Hz, 2 H) 2.43-2.52 (m, 2H).

reactant | 7-phenyl-4,5-dihydropyrazolo[1,5-a]pyridin-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | 0.809 mmol, 400 mg | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=NN2C(CCC=C2C2=CC=CC=C2)=C1)F | C17H11F9N2O3S
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.121 mmol, 70.2 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 1-methyl-2,3,4,6,7,8-hexahydro-1H-pyrimido[1,2-a]pyrimidine | 2.428 mmol, 372 mg | CN1C=2N(CCC1)CCCN2 | C8H15N3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.032 mmol, 29.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-phenyl-4,5-dihydropyrazolo[1,5-a]pyridin-2-amine | 70 mg, 21% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NN2C(CCC=C2C2=CC=CC=C2)=C1)OC | C23H20ClN5O
